US08309580B2
(1) 2-[chloro(cyclohexyl)methyl]-3-methyl-5-[4-(trifluoromethyl)phenyl]furan
To a solution of cyclohexyl{3-methyl-5-[4-(trifluoromethyl)phenyl]furan-2-yl}methanol (0.7 g) in dichloromethane (5 mL) were added oxalyl chloride (0.3 mL) and triethylamine (0.5 mL) at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (0.8 g, 100%).

reactant | cyclohexyl{3-methyl-5-[4-(trifluoromethyl)phenyl]furan-2-yl}methanol | 0.7 g | C1(CCCCC1)C(O)C=1OC(=CC1C)C1=CC=C(C=C1)C(F)(F)F | C19H21F3O2
reactant | oxalyl chloride | 0.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[chloro(cyclohexyl)methyl]-3-methyl-5-[4-(trifluoromethyl)phenyl]furan | 0.8 g, 100% | ClC(C=1OC(=CC1C)C1=CC=C(C=C1)C(F)(F)F)C1CCCCC1 | C19H20ClF3O
